US05945434
N-[2-(4-Methyl-1-piperazinyl)ethyl]phthalimide
The title compound was synthesized by using N-(2-bromoethyl)phthalimide and 1-methylpiperazine according to the same process as in Preparation Example 2.

reactant | N-(2-bromoethyl)phthalimide | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | N-[2-(4-Methyl-1-piperazinyl)ethyl]phthalimide | CN1CCN(CC1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C15H19N3O2
